US05059597
a) trans-1-Benzyl-3-benzylmethylamino-4-hydroxypyrrolidine
19.4 g (0.1 mol) of 90% strength 3-benzyl-6-oxa-3-azabicyclo[3.1.0]hexane are heated under reflux with 14.5 g (0.12 mol) of benzylmethylamine in 100 ml of dioxane and 200 ml of water overnight. The mixture is extracted with CHCl3, the extracts are dried with K2CO3 and concentrated and the residue is subjected to incipient distillation up to 160° C. (oil bath temperature).

reactant | 3-benzyl-6-oxa-3-azabicyclo[3.1.0]hexane | C(C1=CC=CC=C1)N1CC2OC2C1 | C11H13NO
reactant | benzylmethylamine | 0.12 mol, 14.5 g | C(C1=CC=CC=C1)CN | C8H11N
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
solvent | water | 200 ml | O | H2O
product | trans-1-Benzyl-3-benzylmethylamino-4-hydroxypyrrolidine | C(C1=CC=CC=C1)N1C[C@H]([C@@H](C1)O)NCCC1=CC=CC=C1 | C19H24N2O
